US04772704
5-Nitro-2-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone
A mixture containing 2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamine (2.88 g; 12.5 mmoles) and 2-methylthio-5-nitro-4-hydroxypyrimidine (2.33 g; 12.44 mmoles) in 10 ml of ethanol was heated at reflux temperature for 13 hours. The reaction mixture was evaporated under reduced pressure, and the residue was placed on 150 g of silica gel and chromatographed by flash chromatography using a gradient elution of methanol-methylene chloride. The appropriate fractions gave 2.92 g of product which was recrystallized from tetrahydrofuran to give the title compound, mp 150°-153° C.

reactant | 2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamine | 12.5 mmoles, 2.88 g | CN(C)CC1=CC(=CS1)CSCCN | C10H18N2S2
reactant | 2-methylthio-5-nitro-4-hydroxypyrimidine | 12.44 mmoles, 2.33 g | CSC1=NC=C(C(=N1)O)[N+](=O)[O-] | C5H5N3O3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-Nitro-2-{2-[(5-dimethylaminomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone | 2.92 g | [N+](=O)([O-])C=1C(NC(=NC1)NCCSCC1=CSC(=C1)CN(C)C)=O | C14H19N5O3S2
